US08975254B2
b) Ethyl 2,4,6,7-tetrahydropyrano[4,3-c]pyrazole-3-carboxylate
(Z)-ethyl 2-hydroxy-2-(4-oxo-2H-pyran-3(4H, 5H, 6H)-ylidene)acetate (2.5 g, 12.49 mmol) was dissolved in methanol (10 ml). Hydrazine hydrochloride (2.57 g, 37.5 mmol) was added and the resulting mixture was refluxed for one hour. The mixture was allowed to warm to RT and the solvent was evaporated. The residue was dissolved in DCM and extracted twice with water. The organic layer was dried with Na2SO4, filtered and evaporated. The product was purified with flash chromatography. 1H-NMR (400 MHz; d6-DMSO): δ 1.27 (d, 3H), 2.70 (t, 2H), 3.81 (t, 2H), 4.24 (q, 2H), 4.69 (s, 2H), 13.40 (bs, 1H).

reactant | (Z)-ethyl 2-hydroxy-2-(4-oxo-2H-pyran-3(4H, 5H, 6H)-ylidene)acetate | 12.49 mmol, 2.5 g | O\C(\C(=O)OCC)=C/1\COCCC1=O | C9H12O5
reactant | Hydrazine hydrochloride | 37.5 mmol, 2.57 g | Cl.NN
solvent | methanol | 10 ml | CO | CH4O
product | Ethyl 2,4,6,7-tetrahydropyrano[4,3-c]pyrazole-3-carboxylate | N=1NC(=C2C1CCOC2)C(=O)OCC | C9H12N2O3
